US03969402
4-chloroiodobenzene and 4-bromo-3-nitroacetophenone were reacted in an analogous manner to that described in Example 1 (a) to give the novel intermediate 4-acetyl-4'-chloro-2-nitrobiphenyl, m.p. 103° - 105°C. (from methanol). This compound was reduced with stannous chloride and concentrated hydrochloric acid in an analogous manner to that described in Example 1 (b) to give the novel intermediate 4-acetyl-2-amino-4'-chlorobiphenyl, m.p. 139° - 140°C. (from methanol). This compound was converted to the novel intermediate 4-acetyl-4'-chloro-2-hydroxybiphenyl and thence to the novel intermediate 4-acetyl-4'-chloro-2-methoxybiphenyl, b.p. 167° - 170°C./0.4 mm., by diazotization and methylation methods analogous to those described in Example 2.

reactant | 4-chloroiodobenzene | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | 4-bromo-3-nitroacetophenone | CC(=O)C1=CC(=C(C=C1)Br)[N+](=O)[O-] | C8H6BrNO3
solvent | methanol | CO | CH4O
product | 4-acetyl-4'-chloro-2-nitrobiphenyl | C(C)(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)Cl)[N+](=O)[O-] | C14H10ClNO3
